US06638685B2
The synthesis was carried out under radiation from a yellow lamp. A 100-millilitter three-port flask was prepared. Using the flask, 4 grams of pentamethylenesulfide was dissolved in 40 milli-litter of acetone. 6 grams of 1-bromo-2-butanone was dropped into the solution over agitation. After 24 hours, white crystal was precipitated, and was filtrated. The white crystal was pulverized, and the pulverized white crystal was washed in ether. The resultant crystal was dried by using a low-pressure drier at 30 degrees in centigrade for six hours. Then, 7.2 grams of 2-oxobutyl-thiacyclohexanium bromide was obtained. The yield was 72.5%.

reactant | pentamethylenesulfide | 4 grams | C1CCCCS1 | C5H10S
reactant | 1-bromo-2-butanone | 6 grams | BrCC(CC)=O | C4H7BrO
solvent | acetone | CC(=O)C | C3H6O
product | 2-oxobutyl-thiacyclohexanium bromide | 7.2 grams, yield was 72.5% | [Br-].O=C(C[S+]1CCCCC1)CC | InChI=1S/C9H17OS.BrH/c1-2-9(10)8-11-6-4-3-5-7-11;/h2-8H2,1H3;1H/q+1;/p-1
